US07265131B2
Potassium carbonate (62 mg, 0.45 mmol), 3-(4-bromofuran-2-yl)-8-chloro-2-(2,4-difluorobenzyl)-2H-isoquinolin-1-one (61 mg, 0.14 mmol), and 2-(3-ethylsulfanyl-5-trifluoromethylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (59 mg, 0.18 mmol) were combined in a mixture of THF (3 mL), and H2O (1 mL). The resulting biphasic mixture was sparged with nitrogen for 10 minutes. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (12 mg, 15 μmol) was then added to afford a dark red-brown solution. After stirring at ambient temperature for 16 hours, HPLC analysis of the reaction showed a later eluting peak present as well as a quantity of the starting 3-(4-bromo-furan-2-yl)-8-chloro-2-(2,4-difluorobenzyl)-2H-isoquinolin-1-one remaining. An additional portion of the Pd catalyst was added and the reaction was then heated in an oil bath held at 60° C. After stirring for 150 minutes at 60° C., HPLC analysis showed the starting 3-(4-bromo-furan-2-yl)-8-chloro-2-(2,4-difluorobenzyl)-2H-isoquinolin-1-one to be consumed. The reaction was allowed to cool to ambient temperature, then diluted with Et2O (50 mL), and H2O (20 mL). The layers were separated and the aqueous layer was extracted with Et2O (3×5 mL). The combined ether layers were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated under educed pressure to afford a brown film. The crude product was purified by silica gel column chromatography by adsorbing the material onto silica gel from a CH2Cl2 solution, loading the resulting solid onto the column and eluting with a gradient from 0% to 12% EtOAc/Hexane. The broad peak that was observed to elute from the column was concentrated under reduced pressure to afford 8-chloro-2-(2,4-difluorobenzyl)-3-[4-(3-ethylsulfanyl-5-trifluoromethylphenyl)furan-2-yl]-2H-isoquinolin-1-one (34 mg, 43% yield) as a clear film. 1H-NMR (400 MHz, CDCl3): δ 7.79 (1H, d, J=0.8 Hz), 7.56-7.53 (2H, m), 7.49-7.41 (4H, m), 7.12-7.04 (1H, m), 6.81-6.71 (4H, m), 5.39 (2H, s), 3.02 (2H, q, J=7.3 Hz), 1.37 (3H, t, J=7.3 Hz).

reactant | Potassium carbonate | 0.45 mmol, 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-bromofuran-2-yl)-8-chloro-2-(2,4-difluorobenzyl)-2H-isoquinolin-1-one | 0.14 mmol, 61 mg | BrC=1C=C(OC1)C=1N(C(C2=C(C=CC=C2C1)Cl)=O)CC1=C(C=C(C=C1)F)F | C20H11BrClF2NO2
reactant | 2-(3-ethylsulfanyl-5-trifluoromethylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.18 mmol, 59 mg | C(C)SC=1C=C(C=C(C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C15H20BF3O2S
reactant | H2O | 1 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 15 μmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-chloro-2-(2,4-difluorobenzyl)-3-[4-(3-ethylsulfanyl-5-trifluoromethylphenyl)furan-2-yl]-2H-isoquinolin-1-one | 34 mg, 43% yield | ClC=1C=CC=C2C=C(N(C(C12)=O)CC1=C(C=C(C=C1)F)F)C=1OC=C(C1)C1=CC(=CC(=C1)C(F)(F)F)SCC | C29H19ClF5NO2S
